US08034938B2
N-{3-[(11S)-6-Amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propyl}morpholine-4-carboxamide (698 mg, 1.70 mmol) was dissolved in 5 mL of trifluoroacetic acid and the solution was placed in a pressure bottle. Platinum oxide (386 mg) was then added and the reaction mixture was shaken under H2 at 50 PSI (3.4×105 Pa). After 2 days, the reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with a mixture of methanol and CH2Cl2 and the combined filtrates were concentrated under reduced pressure to give a syrup. The syrup was portioned between 20 mL of concentrated NH4OH solution and 50 mL of CHCl3. The layers were separated and the aqueous portion was extracted with an additional 50 mL of CHCl3. The combined organic portions were washed successively with concentrated NH4OH, H2O and brine. The organic portion was dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 20% CMA/CHCl3) gave a fluffy, white solid. Crystallization from methanol/propyl acetate gave N-{3-[(11S)-6-amino-2,3,4,8,10,11-hexahydro-1H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propyl}morpholine-4-carboxamide (395 mg) as fluffy, white needles, mp 154-156° C.

reactant | N-{3-[(11S)-6-Amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propyl}morpholine-4-carboxamide | 1.70 mmol, 698 mg | NC1=NC2=CC=CC=C2C2=C1N=C1N2[C@H](COC1)CCCNC(=O)N1CCOCC1 | C21H26N6O3
reactant | NH4OH | 20 mL | [NH4+].[OH-]
reactant | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | Platinum oxide | 386 mg | [Pt]=O
product | N-{3-[(11S)-6-amino-2,3,4,8,10,11-hexahydro-1H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propyl}morpholine-4-carboxamide | 395 mg | NC1=NC=2CCCCC2C2=C1N=C1N2[C@H](COC1)CCCNC(=O)N1CCOCC1 | C21H30N6O3
